US08383636B2
Di-tert-butyl dicarbonate (548 mg, 2.5 mmol) was added to a stirred solution of (2R,3S)-2-amino-4-(methylthio)butane-1,3-diol (190 mg, 1.3 mmol) in methanol (5 ml) at ambient and the reaction monitored by TLC. After 1 h the reaction was complete by TLC analysis therefore concentrate in vacuo and purify the resulting residue by flash chromatography on silica gel eluting with DCM=>5% 7N NH3 in MeOH/DCM to afford tert-butyl (2R,3S)-1,3-dihydroxy-4-(methylthio)butan-2-ylcarbamate (313 mg, 99% yield) as a syrup. 1H NMR (CDCl3) δ 3.99 (brs, 1H), 3.73 (m, 2H), 3.58 (d, J=2.0 Hz, 2H), 3.33 (brs, 1H), 2.63 (m, 2H), 2.12 (s, 3H), 1.45 (s, 9H). 13C NMR (CDCl3) δ 157.2, 80.6, 69.9, 65.0, 54.8, 39.4, 29.1, 16.2.

reactant | Di-tert-butyl dicarbonate | 2.5 mmol, 548 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (2R,3S)-2-amino-4-(methylthio)butane-1,3-diol | 1.3 mmol, 190 mg | N[C@H](CO)[C@@H](CSC)O | C5H13NO2S
solvent | methanol | 5 ml | CO | CH4O
product | tert-butyl (2R,3S)-1,3-dihydroxy-4-(methylthio)butan-2-ylcarbamate | 313 mg, 99% yield | OC[C@H]([C@@H](CSC)O)NC(OC(C)(C)C)=O | C10H21NO4S
